US06090813
1-(1-(4-pyridyl)piperdin-4-ylcarbonyl)piperazine (0.411 g) was dissolved in dry dichloromethane (20 mL) and stirred under argon at 0° C. To the resulting solution was added triethylamine (0.56 mL) followed by the dropwise addition of a solution of 4-cyanobenzenesulphonyl chloride (0.33 g, 1.6 mmol) in dry pyridine (20 mL). The reaction was then stirred at 0° C. for 10 minutes and then allowed to warm to room temperature and stirred for a further 1 hour. The reaction was quenched by the removal of the dichloromethane and pyridine solvents by evaporation, taken up in water (60 mL) and then extracted with ethyl acetate (3×50 mL). The organic extracts were then washed with water, brine, dried (MgSO4) and evaporated to dryness. The product was then recrystallised to give 1-(4-cyanophenylsulphonyl)-4-(1-(4-pyridyl)piperidin-4-ylcarbonyl)piperazine as a white, hygroscopic solid m.p. 168-169° C.;

reactant | 1-(1-(4-pyridyl)piperdin-4-ylcarbonyl)piperazine | 0.411 g | N1=CC=C(C=C1)N1CCC(CC1)C(=O)N1CCNCC1 | C15H22N4O
reactant | triethylamine | 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | 4-cyanobenzenesulphonyl chloride | 1.6 mmol, 0.33 g | C(#N)C1=CC=C(C=C1)S(=O)(=O)Cl | C7H4ClNO2S
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 1-(4-cyanophenylsulphonyl)-4-(1-(4-pyridyl)piperidin-4-ylcarbonyl)piperazine | C(#N)C1=CC=C(C=C1)S(=O)(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1 | C22H25N5O3S
